US05639887
α-(3.4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-gamma-methyl-α-[(4-methylphenyl)thio]-2(1H)-isoquino linepentanenitrile
The procedure of Example 2 is repeated using 4.0 g of α-(3-chloro-2-methylpropyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile and 3.5 g of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride. This affords 0.985 g of the desired product as a yellow foam.

reactant | α-(3-chloro-2-methylpropyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 4.0 g | ClCC(CC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C)C | C21H24ClNO2S
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.5 g | Cl.COC=1C=C2CCNCC2=CC1OC
product | α-(3.4-Dimethoxyphenyl)-3,4-dihydro-6,7-dimethoxy-gamma-methyl-α-[(4-methylphenyl)thio]-2(1H)-isoquino linepentanenitrile | 0.985 g | COC=1C=C(C=CC1OC)C(C#N)(CC(CN1CC2=CC(=C(C=C2CC1)OC)OC)C)SC1=CC=C(C=C1)C | C32H38N2O4S
